US07678820B2
To a solution of (4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetic acid (150 mg) and HOBt (65 mg) in DMF (1.5 ml) was added EDCI/HCl (69 mg) at 0° C., followed by stirring at room temperature for 1 hour. After cooling to 0° C. again, 1-pyridin-2-ylmethanamine (39 mg) was added thereto, followed by stirring at room temperature for 15 hours. To the reaction solution was added a saturated aqueous NaHCO3 solution to complete the reaction. It was extracted with EtOAc, the organic layer was washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH 100:0 to 95:5) to obtain N-(pyridin-2-ylmethyl)-2-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide (157.8 mg) as a white solid. To a solution of N-(pyridin-2-ylmethyl)-2-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide (120 mg) in methylene chloride (2.4 ml) was added dropwise 10 equivalents of 4M HCl/dioxane, followed by stirring for 1 hour. The reaction mixture was concentrated under reduced pressure, and powdered/washed with IPE. The obtained solid was collected by filtration, and dried to obtain N-(pyridin-2-ylmethyl)-2-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide hydrochloride (126 mg) as a white solid.

reactant | N-(pyridin-2-ylmethyl)-2-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide | 120 mg | N1=C(C=CC=C1)CNC(CN1C=CC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C(F)(F)F)C)C(F)(F)F)=O | C28H21F6N5O3
reactant | HCl dioxane | 4M, 10 equivalents | Cl.O1CCOCC1
solvent | methylene chloride | 2.4 ml | C(Cl)Cl | CH2Cl2
product | N-(pyridin-2-ylmethyl)-2-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-1-yl)acetamide hydrochloride | 126 mg | Cl.N1=C(C=CC=C1)CNC(CN1C=CC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C(F)(F)F)C)C(F)(F)F)=O | InChI=1S/C28H21F6N5O3.ClH/c1-16(27(29,30)31)41-23-9-8-17(13-21(23)28(32,33)34)26-37-25(38-42-26)20-6-4-7-22-19(20)10-12-39(22)15-24(40)36-14-18-5-2-3-11-35-18;/h2-13,16H,14-15H2,1H3,(H,36,40);1H
